US07157487B2
Ethyl (3-bromo-4-((3-indolylcarbonyl)amino)phenyl)acetate (664 mg, 1.65 mmol) was dissolved in THF (17 ml). To the resulting solution was added 0.25N NaOH (10.0 ml, 2.48 mmol). After stirring at room temperature for 24 hours, the reaction mixture was poured in 1N HCl to acidify the mixture. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water, and dried under reduced pressure to give (3-bromo-4-((3-indolylcarbonyl)amino)phenyl)acetic acid (341 mg, 55%) as a brown solid.

reactant | Ethyl (3-bromo-4-((3-indolylcarbonyl)amino)phenyl)acetate | 1.65 mmol, 664 mg | BrC=1C=C(C=CC1NC(=O)C1=CNC2=CC=CC=C12)CC(=O)OCC | C19H17BrN2O3
reactant | NaOH | 2.48 mmol, 0.25N, 10.0 ml | [OH-].[Na+]
solvent | THF | 17 ml | C1CCOC1 | C4H8O
solvent | HCl | 1N | Cl | ClH
product | (3-bromo-4-((3-indolylcarbonyl)amino)phenyl)acetic acid | 341 mg, 55% | BrC=1C=C(C=CC1NC(=O)C1=CNC2=CC=CC=C12)CC(=O)O | C17H13BrN2O3
